US07074777B2
(2) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androst-5-ene (1.0 g), were added hexane (15 ml), N-bromosuccinimide (336.4 mg) and then 2,2′-azobis isobutyronitrile (77.6 mg), followed by reaction under reflux for 30 min. After cooling with ice, the mixture was filtered to remove insoluble material and the filtrate was evaporated under reduced pressure to remove the solvent. To the resulting residue, were added toluene (10 ml) and γ-collidine (534.4 mg), followed by reflux for 2 hours. The mixture was filtered to remove insoluble material and the filtrate was diluted with hexane. The organic layer was washed with IM hydrochloric acid, a saturated aqueous sodium bicarbonate solution and then saturated brine and evaporated to remove the solvent under reduced pressure. The resulting residue was purified by column chromatography (hexane:ethyl acetate 40:1), dissolved in dichloromethane (20 ml) and subjected to reaction for 1 hour by adding 4-phenyl-1,2,4-triazoline-3,5-dione. The reaction mixture was evaporated to remove the solvent under reduced pressure and the resulting residue was purified by column chromatography (hexane:ethyl acetate=7:1) to give the titled compound (0.45 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androst-5-ene | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCCC(CC)(O[Si](CC)(CC)CC)CC)O[Si](C)(C)C(C)(C)C | C46H90O4Si3
reactant | N-bromosuccinimide | 336.4 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis isobutyronitrile | 77.6 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 4-phenyl-1,2,4-triazoline-3,5-dione | C1(=CC=CC=C1)N1C(N=NC1=O)=O | C8H5N3O2
solvent | hexane | 15 ml | CCCCCC | C6H14
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-{4-ethyl-4-(triethylsilyloxy)hexyloxymethyl}androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 0.45 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCCC(CC)(O[Si](CC)(CC)CC)CC)O[Si](C)(C)C(C)(C)C | InChI=1S/C46H88O4Si3.C8H5N3O2/c1-18-46(19-2,50-53(20-3,21-4)22-5)29-23-31-47-34-36-25-27-39-38-26-24-35-32-37(48-51(14,15)42(6,7)8)33-41(49-52(16,17)43(9,10)11)45(35,13)40(38)28-30-44(36,39)12;12-7-9-10-8(13)11(7)6-4-2-1-3-5-6/h24,26,36-37,39-41H,18-23,25,27-34H2,1-17H3;1-5H/t36-,37-,39+,40+,41+,44-,45+;/m1./s1
